Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
shellfish derived / oranges, sesame, soy,chicken, ragweed, mold, 
cats, dogs, pollen, horse hair / lisinopril
 
Attending: ___
 
Chief Complaint:
Mouth Pain
 
Major Surgical or Invasive Procedure:
na

 
History of Present Illness:
This is a ___ yo M with stage III lung adenocarcinoma on 
neo-adjuvant chemo who presents with mouth pain, sinus pressure, 
and leg weakness.

Per patient, has had progressive mouth pain since 5 days prior 
to presentation, starting about 3 days after his ___ cycle of 
chemotherapy. Started in posterior oropharynx and progressed to 
roof of mouth. Has pain with eating, but no difficulty 
swallowing. No fevers, chills, N/V, abd pain, or associated 
changes in BM's. Able to take po's despite pain.

Other problem is sinus pressure and post-nasal drip, which he 
attributes to allergies. Taking Zyrtec. Symptoms are improving.

Other problem is bilateral anterior thigh discomfort for past 
few days. Describes as dull pain. Patient states that it mostly 
bothers him when he moves, but intact strength, able to 
ambulate, no changes in sensation or overlying skin changes. No 
other muscle groups involved.

On arrival to the floor, patient is fatigues but otherwise well. 
 

REVIEW OF SYSTEMS:  Negative except per HPI
 
Past Medical History:
PAST ONCOLOGIC HISTORY 
Oncology for T1N2M0 Stage IIIA NSCLC adenocarcinoma.  
- ___:  Wheezing, cough, SOB concerning for PNA. 
Unresponsive to treatment.
- ___:  Abnormal CXR --> CT Chest showing spiculated right
upper lobe nodule measuring 2.5 x 1.6 x 2.1 cm. Additional small
nodules were seen in the RML, RLL and LLL.
- ___:  PET noted a 2.7 cm right apical nodule FDG avid (SUV
4.8), a 1.8 cm avid (SUV 4.0) subcarinal node
- ___:  Brain MRI with no intracranial lesions, concern for
small lesion in C3 vertebral body
- ___:  MRI C-spine shows benign sclerotic lesion in C3
- ___:  Bronchoscopy with TBNA.  Pathology shows NSCLC, 
TTF-1
positive and p63 negative (c/w adenocarcinoma), positive LN at 
7,
4R, 11R.
- ___:  neoadjuvant chemotherapy with cisplatin/pemetrexed
 
PAST MEDICAL HISTORY: 
CVA in ___
diabetes mellitus type 2
GERD
hyperlipidemia 
status post excision of vocal cord nodules 
 
 
Social History:
___
Family History:
Mother: pancreatic ca, ___ Dr ___: prostate ca, cardiomyopathy ___ inhaled steroids 
Cancers in the family:  
- sister died of metastatic CR cancer 
- brother colon cancer, thrombotic events post-op ___ Factor V 
___, disabled living in ___ housing
- brother prostate ca, ___ Dr ___ and clotting disorders in the family:  brother and 
sister Factor V ___
- Patient has been checked, no FVL (per his report)
  
 
Physical Exam:
VS:  98.8, 134/80, 95, 20, 94% RA
GENERAL: NAD  
HEENT:  mild erythema of hard palate, no ulcers/lesions, thrush, 
or tonsillar exudates
CARDIAC:  RRR, no murmurs
LUNG:   CTAB
ABD:  soft, NT, ND, normal BS
EXT:  No edema, strength intact, no change in sensation over 
anterior thigh
PULSES:  2+
NEURO:  nonfocal
SKIN:  dry, no rashes
 
Pertinent Results:
___ 08:49PM BLOOD WBC-9.7 RBC-4.34* Hgb-12.7* Hct-38.5* 
MCV-89 MCH-29.3 MCHC-33.0 RDW-12.4 RDWSD-40.4 Plt ___
___ 08:49PM BLOOD Glucose-226* UreaN-18 Creat-0.9 Na-137 
K-4.5 Cl-97 HCO3-28 AnGap-17
___ 08:49PM BLOOD Calcium-8.8 Phos-2.5* Mg-1.5*
___ 09:02PM BLOOD Lactate-2.1*
 
Brief Hospital Course:
___ w/ ___ p/w mouth pain, sinus pressure, and leg weakness.

# Mouth Pain
This is most likely thrush as had small white patches on the 
outer edges of his tongue, with possible mucositis. This is 
improving spontaneously with magic mouthwash and was started on 
nystatin swish and swallow. 

# Sinus Pressure
Likely allergic sinusitis. No focal deficits or symptoms to 
suggest CNS disease. Continue Zyrtec and Flonase. 

# Leg weakness
This is a subjective Likely mild myopathy versus deconditioning. 
CK is normal. Instructed to hold off on taking his simvastatin 
for the next week while he convalesces. In addition, he has 
hypomagnasemia and was discharged on a higher dose of his home 
magnesium. 
 
# IDDM: Continue home insulin. Patient takes above recommended 
daily dose of Lantus, so U-500 may be more effective for him.

# NSCLC: will f/u w/ Dr ___ Dr ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Glargine 110 Units Bedtime
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: this is what patient takes at home

4. Victoza 3-Pak (liraglutide) 0.6 mg/0.1 mL (18 mg/3 mL) 
subcutaneous DAILY 
5. MetFORMIN (Glucophage) 1000 mg PO BID 
6. Omeprazole 20 mg PO BID 
7. Simvastatin 40 mg PO QPM 
8. Aspirin 81 mg PO DAILY 
9. Cyanocobalamin 500 mcg PO DAILY 
10. Fluticasone Propionate NASAL 1 SPRY NU BID 
11. Magnesium Oxide 280 mg PO BID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Cetirizine 10 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Glargine 110 Units Bedtime
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: this is what patient takes at home

6. Magnesium Oxide 800 mg PO BID 
RX *magnesium oxide 400 mg 2 tablet(s) by mouth twice a day Disp 
#*40 Tablet Refills:*0
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Omeprazole 20 mg PO BID 
9. Maalox/Diphenhydramine/Lidocaine ___ mL PO PRN mouth pain 
10. Nystatin Oral Suspension 5 mL PO QID 
RX *nystatin 100,000 unit/mL 5 ml by mouth four times a day Disp 
#*480 Milliliter Milliliter Refills:*0
11. Cyanocobalamin 500 mcg PO DAILY 
12. Victoza 3-Pak (liraglutide) 0.6 mg/0.1 mL (18 mg/3 mL) 
subcutaneous DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Oral thrush/mucositis
Myalgias

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you in the hospital. You were 
found to have early thrush and were started on a medication to 
help treat this. 

For your muscle weakness, it is best you take a holiday from 
taking the simvastatin for a week or two until you feel better. 
You should discuss with your doctors about taking a supplement 
for co-enzyme q10 which may help prevent the weakness and pain 
caused by the cholesterol medication. 

In addition, you had a low magnesium level and this may 
contribute to your symptoms of muscle weakness. High magnesium 
foods include dark leafy greens, nuts, seeds, fish, beans, whole 
grains, avocados, yogurt, bananas, dried fruit, dark chocolate, 
and more. Please take an increased dose of magnesium for the 
next ___ days and have your doctors follow up on your magnesium 
level and adjust your home supplement. Cut back on the dose if 
it gives you diarrhea

  
 
Followup Instructions:
___